US06677352B1
A mixture of 3,3-dianilino-1-(2,6-dichloro-5-fluoro-3-pyridinyl)-2-propen-1-one (2.3 g, 5.7 mmol) and t-BuOK (1.28 g, 11.4 mmol) in dioxane (80 mL) was stirred at 80° C. overnight. The reaction was cooled, concentrated in vacuo, diluted with water and extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo. Silica gel flash chromatography of the residue provided 2-anilino-7-chloro-6-fluoro-1-phenyl-1,8-naphthyridin-4(1H)-one (1.0 g, 50as a light yellow solid: LCMS RT: 2.60 min, MH+: 366.8. This transformation can be accomplished by using the combination of other aprotic solvents such as DMF, and THF with other bases such as NaH.

reactant | 3,3-dianilino-1-(2,6-dichloro-5-fluoro-3-pyridinyl)-2-propen-1-one | 5.7 mmol, 2.3 g | N(C1=CC=CC=C1)C(=CC(=O)C=1C(=NC(=C(C1)F)Cl)Cl)NC1=CC=CC=C1 | C20H14Cl2FN3O
reactant | t-BuOK | 11.4 mmol, 1.28 g | CC(C)(C)[O-].[K+]
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 2-anilino-7-chloro-6-fluoro-1-phenyl-1,8-naphthyridin-4(1H)-one | N(C1=CC=CC=C1)C=1N(C2=NC(=C(C=C2C(C1)=O)F)Cl)C1=CC=CC=C1 | C20H13ClFN3O
